US06858630B2
2-hydroxy-4-phenylbenzaldehyde.
To an agitated solution of 2-hydroxy-4-(2′-methylphenyl)benzaldehyde (0.030 g, 0.14 mmol) in EtOH (0.80 mL) was added 1,2-diamino-8-hydroxy-naphthalene-4-sulfonic acid dihydrochloride (0.033 g, 0.10 mmol) and sodium bisulfite (0.03 g) in water (0.20 mL). The solution was heated to 60° C. and agitated over 18 hours. The solution was cooled to room temperature, the tan precipitate was isolated by filtration and washed with water and ethyl acetate to provide the title compound (0.029 g, 60%) MS(ES) m/z 445 [M−H].

reactant | 2-hydroxy-4-(2′-methylphenyl)benzaldehyde | 0.14 mmol, 0.030 g | OC1=C(C=O)C=CC(=C1)C1=C(C=CC=C1)C | C14H12O2
reactant | 1,2-diamino-8-hydroxy-naphthalene-4-sulfonic acid dihydrochloride | 0.10 mmol, 0.033 g | Cl.Cl.NC1=C(C=C(C2=CC=CC(=C12)O)S(=O)(=O)O)N
reactant | sodium bisulfite | 0.03 g | S([O-])(O)=O.[Na+]
solvent | EtOH | 0.80 mL | CCO | C2H6O
solvent | water | 0.20 mL | O | H2O
product | 2-hydroxy-4-phenylbenzaldehyde | 0.029 g, 60% | OC1=C(C=O)C=CC(=C1)C1=CC=CC=C1 | C13H10O2
